US05576324
2-(2-Amino-1-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl
2-(2-Azido-1-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (1.01 g, 3.53 mmol) was dissolved in tetrahydrofuran (100 ml), to which 10% palladium-on-carbon (1.01 g) was added for hydrogen replacement and stirred at room temperature for 3 hours. The reaction mixture was filtered, and the filtrate was condensed under reduced pressure. The residue was dissolved in a solvent mixture of methanol (40 ml) and chloroform (10 ml), to which 4N-HCl-dioxane (0.94 ml) was added while cooling in a water bath, followed by condensing under reduced pressure. The resultant residue was recrystallized from methanol-ether to obtain 749 mg of the title compound as pale yellow powdery crystals (71.6%).

reactant | 2-(2-Azido-1-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 3.53 mmol, 1.01 g | N(=[N+]=[N-])CC(O)C1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C14H14N4O3
reactant | hydrogen | [H][H] | H2
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
solvent | HCl dioxane | 0.94 ml | Cl.O1CCOCC1
catalyst | palladium-on-carbon | 1.01 g | [Pd] | Pd
product | 2-(2-Amino-1-hydroxyethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one·HCl | 749 mg, 71.6% | NCC(O)C1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1.Cl | InChI=1S/C14H16N2O3.ClH/c1-7-4-8-5-11(10(17)6-15)19-14(8)9-2-3-12(18)16-13(7)9;/h2-4,10-11,17H,5-6,15H2,1H3,(H,16,18);1H
